US05318966
0.3557 g (0.00936 mol) of lithium aluminum hydride was suspended in 40 ml of THF under argon. A solution of 3.01 g (0.00936 mol) of rac-cis-1,3,3a,4,5,9b-hexahydro-6-methoxy-3-phenethyl-2H-benzo[e]indol-2-one in 40 ml of THF was added dropwise thereto and the mixture was boiled under reflux for 2 hours. 10 ml of ethyl acetate and a saturated aqueous Na2SO4 solution were cautiously added dropwise thereto in succession until a complete white precipitate had resulted. After filtration and concentration there were obtained 2.9 g (100%) of oily rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-3-phenethyl-1H-benzo[e]indole.

reactant | lithium aluminum hydride | 0.00936 mol, 0.3557 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | rac-cis-1,3,3a,4,5,9b-hexahydro-6-methoxy-3-phenethyl-2H-benzo[e]indol-2-one | 0.00936 mol, 3.01 g | COC1=CC=CC=2[C@H]3CC(N([C@H]3CCC21)CCC2=CC=CC=C2)=O | C21H23NO2
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-3-phenethyl-1H-benzo[e]indole | 2.9 g, 100% | COC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCC2=CC=CC=C2 | C21H25NO
